US07462630B2
Synthesis of 2-{[(benzyloxy)carbonyl]amino}-3-{[t-butyl(dimethyl)silyl]oxy}-propionic acid:
1.50 g (6.27 mmol) of N-[(benzyloxy)carbonyl]-(DL)-serine was dissolved in 10 ml of N,N-dimethylformamide. 885 mg (13.2 mmol) of imidazole and 1.98 g (13.2 mmol) of t-butyldimethylchlorosilane were added to the obtained solution at 0° C., and they were stirred overnight. Water was added to the reaction mixture and they were stirred for 10 minutes. After extracting with ethyl acetate 3 times followed by the drying over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure to obtain the title compound.

reactant | N-[(benzyloxy)carbonyl]-(DL)-serine | 6.27 mmol, 1.50 g | C(C1=CC=CC=C1)OC(=O)NC(CO)C(=O)O | C11H13NO5
reactant | imidazole | 13.2 mmol, 885 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 13.2 mmol, 1.98 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-{[(benzyloxy)carbonyl]amino}-3-{[t-butyl(dimethyl)silyl]oxy}-propionic acid | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CO[Si](C)(C)C(C)(C)C | C17H27NO5Si
